US04942221
10 millimoles (1.17 g) of benzyl cyanide are dissolved in 10 ml of anhydrous toluene at 0° C., under an argon atmosphere. 15 millimoles of 1.5 M toluenic solution of diisobutylaluminum hydride (10 ml) are added, dropwise, at this temperature. The temperature is maintained at 0° C. for one hour, then 13.7 ml (viz 1.5 eq) of diethyl-aluminum cyanide are added. The reaction mixture is stirred for 3 hours while the temperature reaches the room temperature. Then it is hydrolyzed with 10 ml of methanol, and with a slurry of sodium sulfate. After purification of the so-obtained α-aminonitrile, by ethyl acetate/petroleum ether, there are obtained 0.95 g of 2-amino-3-phenyl-propionitrile, in the form of an orange-colored oil, yield: 65%.

reactant | benzyl cyanide | 10 millimoles, 1.17 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | diisobutylaluminum hydride | 10 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diethyl-aluminum cyanide | 13.7 ml, 1.5 eq | [C-]#N.C(C)[Al+]CC
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 10 ml | CO | CH4O
product | 2-amino-3-phenyl-propionitrile | 0.95 g, yield: 65% | NC(C#N)CC1=CC=CC=C1 | C9H10N2
